US08809267B2
3-Ethoxy-3-(3-methoxy-2-methyl-phenylimino)-propionic acid ethyl ester (1.56 g, 5.57 mmol) was dissolved in diphenyl ether then placed in a 300° C. sand bath. The internal temperature was kept between 240-250° C. for 15 minutes then the reaction was cooled to room temperature. The crude material was directly loaded onto a silica gel column (0→60% EtOAc/hexane) to afford 2-ethoxy-7-methoxy-8-methyl-quinolin-4-ol (882 mg, 68%). LCMS found 234.1 [M+H]+.

reactant | 3-Ethoxy-3-(3-methoxy-2-methyl-phenylimino)-propionic acid ethyl ester | 5.57 mmol, 1.56 g | C(C)OC(CC(=NC1=C(C(=CC=C1)OC)C)OCC)=O | C15H21NO4
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 2-ethoxy-7-methoxy-8-methyl-quinolin-4-ol | 882 mg, 68% | C(C)OC1=NC2=C(C(=CC=C2C(=C1)O)OC)C | C13H15NO3
